US09415037B2
Compound 211: Cyclopropanecarboxylic acid {5-[4-(2-pyridin-2-yl-ethyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide
Cyclopropanecarboxylic acid {5-[4-((E)-2-pyridin-3-yl-vinyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (320 mg, 0.84 mol) was dissolved in 10 mL MeOH. Pd/C (50 mg) was added and the reaction is put under H2 at normal pressure. The reaction was stirred for 2 hrs. The reaction mixture was filtered through Celite®. The organic solvent was removed under pressure. NaHCO3 saturated solution was added to resulting mixture. The compound was extracted with EtOAc. The organic phase was dried over MgSO4, filtered and removed under vacuum to afford the title compound in 100% yield.

reactant | Cyclopropanecarboxylic acid {5-[4-((E)-2-pyridin-3-yl-vinyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | 0.84 mol, 320 mg | N1=CC(=CC=C1)/C=C/C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C23H19N5O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | Cyclopropanecarboxylic acid {5-[4-(2-pyridin-2-yl-ethyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | 100% yield | N1=C(C=CC=C1)CCC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C23H21N5O
